US07902356B2
4-(2-Methoxy-4-nitro-phenyl)-morpholine
Mix morpholine (1.50 mL, 17.20 mmol) and 1-chloro-2-methoxy-4-nitro-benzene (1.06 g, 5.65 mmol) and heat to 100° C. for 4 h while stirring. Cool the solution to room temperature, then partition between EtOAc (40 mL) and 1N HCl (20 mL). Wash the organic solution with water (20 mL) and brine (20 mL), dry, filter, and concentrate. Purify the crude material by flash chromatography, using a linear gradient of 100% hexanes to 50% EtOAc/hexanes, to give the title compound as a yellow solid (250 mg, 18%). MS (ES+) 239.0 (M+1)+. 1H NMR (400 MHz, CDCl3) δ: 7.86 (dd, 1H, J=8.8, 2.6 Hz), 7.71 (d, 1H, J=2.2 Hz), 6.87 (d, 1H, J=9.2 Hz), 3.94 (s, 31), 3.87 (m, 4H), 3.21 (m, 4H).

reactant | morpholine | 17.20 mmol, 1.50 mL | N1CCOCC1 | C4H9NO
reactant | 1-chloro-2-methoxy-4-nitro-benzene | 5.65 mmol, 1.06 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
product | 4-(2-Methoxy-4-nitro-phenyl)-morpholine | 250 mg, 18% | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C11H14N2O4
